US07319104B2
2-[4-(2-{(5-Ethylpyrimidin-2-yl)[4-(trifluoromethyl)benzyl]amino}ethyl)phenoxy]butanoic acid
Similarly prepared from 4-(2-{(5-ethylpyrimidin-2-yl)[4-(trifluoromethyl)benzyl]amino}ethyl)phenol and t-butyl 2-bromobutyrate.

reactant | 4-(2-{(5-ethylpyrimidin-2-yl)[4-(trifluoromethyl)benzyl]amino}ethyl)phenol | C(C)C=1C=NC(=NC1)N(CCC1=CC=C(C=C1)O)CC1=CC=C(C=C1)C(F)(F)F | C22H22F3N3O
reactant | t-butyl 2-bromobutyrate | BrC(C(=O)OC(C)(C)C)CC | C8H15BrO2
product | 2-[4-(2-{(5-Ethylpyrimidin-2-yl)[4-(trifluoromethyl)benzyl]amino}ethyl)phenoxy]butanoic acid | C(C)C=1C=NC(=NC1)N(CCC1=CC=C(OC(C(=O)O)CC)C=C1)CC1=CC=C(C=C1)C(F)(F)F | C26H28F3N3O3
